US04788199
A solution of diethyl malonate (17.9 g) in anhydrous tetrahydrofuran (100 cc) is added dropwise under nitrogen to sodium hydride (3.36 g, 80% strength in oil) and anhydrous tetrahydrofuran (80 cc). After 1 hour's stirring, a solution of 3-bromomethyl-1-phenylisoquinoline (8.3 g) in tetrahydrofuran (100 cc) is added dropwise, and the mixture is left with stirring at room temperature (approximately 20° C.) for 1 hour. Water (200 cc) is added and the aqueous phase extracted with ethyl acetate (3×200 cc). The organic phase is dried over magnesium sulphate, filtered and evaporated to dryness under reduced pressure. The residue is chromatographed on silica gel with a cyclohexane/ethyl acetate (4:1 by volume) mixture as eluant. An oil (9.6 g) is recovered, taken up in concentrated hydrochloric acid (95 cc) and brought to boiling for 20 hours. After the mixture is cooled, water (200 cc) is added, the aqueous phase is washed with ethyl acetate (2×50 cc), potassium hydroxide solution is added until the pH is 5 and the mixture is extracted with chloroform (3×50 cc). The organic phase is dried over magnesium sulphate and evaporated to dryness under reduced pressure. 1-Phenyl-3-isoquinolinepropanoic acid (2.9 g), m.p. 146° C., is obtained.

reactant | diethyl malonate | 17.9 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 3.36 g | [H-].[Na+]
reactant | 3-bromomethyl-1-phenylisoquinoline | 8.3 g | BrCC=1N=C(C2=CC=CC=C2C1)C1=CC=CC=C1 | C16H12BrN
reactant | Water | 200 cc | O | H2O
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 cc | O1CCCC1 | C4H8O
product | 1-Phenyl-3-isoquinolinepropanoic acid | 2.9 g | C1(=CC=CC=C1)C1=NC(=CC2=CC=CC=C12)CCC(=O)O | C18H15NO2
